US08420816B2
tert-butyl 4-methyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate
3-((1-(tert-Butoxycarbonyl)-4-methylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid (34 mg, 0.088 mmol), HATU (67 mg, 0.175 mmol), and pyridine (0.021 mL, 0.263 mmol) were stirred in DMF (3 mL) at room temperature for 2 h. The solution was concentrated in vacuo to give the title compound which was used without further purification.

reactant | 3-((1-(tert-Butoxycarbonyl)-4-methylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | 0.088 mmol, 34 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)NCC1=CNC=2N=CC=C(C21)C(=O)O | C20H28N4O4
reactant | HATU | 0.175 mmol, 67 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyridine | 0.263 mmol, 0.021 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-methyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C20H26N4O3
